US08445118B2
(4) Titanium Carboxycatecholate (Molecular Weight: 352)
A solution of 3,4-dihydroxybenzoic acid (30.8 g, 200 mmol) and toluene (220 ml) was dehydrated by distilling 20 mL of the solution. Thereafter, 28.4 g (100 mmol) of titanium(IV) isopropoxide (TTIP) was added to the solution while stirring. The mixed solution was refluxed for 1 hour, and then, while the distillation temperature was 100° C. or higher, distilled until the amount of the solution became half. After the distillation, solid content of the product was isolated by suction filtering using a membrane suction filter. The residual solid content was heated to 100° C. under vacuum using a vacuum dryer so that remaining volatile components were completely removed. The solid content (3,4-dihydroxybenzoic acid-titanium complex) was brown in color. The yield amount was 35.0 g (99.4 mmol), and the yield percentage was 99%. 3.52 g of 3,4-dihydroxybenzoic acid-titanium complex was dissolved into 100 mL of 1:4 acetylacetone/ethyl acetate to produce a coating liquid.

reactant | 3,4-dihydroxybenzoic acid | 200 mmol, 30.8 g | OC=1C=C(C(=O)O)C=CC1O | C7H6O4
reactant | titanium(IV) isopropoxide | 100 mmol, 28.4 g | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
solvent | toluene | 220 ml | C1(=CC=CC=C1)C | C7H8
product | Titanium Carboxycatecholate | C(=O)(O)C1=C(C([O-])=CC=C1)[O-].[Ti+4].C(=O)(O)C1=C(C([O-])=CC=C1)[O-] | InChI=1S/2C7H6O4.Ti/c2*8-5-3-1-2-4(6(5)9)7(10)11;/h2*1-3,8-9H,(H,10,11);/q;;+4/p-4
